US07312208B2
Step a: Synthesis of 1-(3-isothiocyanatopropyl)-1-azoniabicyclo- [2.2.2]octane bromide
To a solution of 55 mg of 3-bromopropyl isothiocyanate in 1 ml of acetonitrile was added 33 mg of quinuclidine, and the mixture was heated at 50° C for 19 hours. The reaction solution was concentrated and the residue was washed 3 times with 1 ml of ether to obtain the title compound.

reactant | 3-bromopropyl isothiocyanate | 55 mg | BrCCCN=C=S | C4H6BrNS
reactant | quinuclidine | 33 mg | N12CCC(CC1)CC2 | C7H13N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 1-(3-isothiocyanatopropyl)-1-azoniabicyclo- [2.2.2]octane bromide | [Br-].N(=C=S)CCC[N+]12CCC(CC1)CC2 | InChI=1S/C11H19N2S.BrH/c14-10-12-5-1-6-13-7-2-11(3-8-13)4-9-13;/h11H,1-9H2;1H/q+1;/p-1
